### PR TITLE
[Merged by Bors] - feat: Interaction of `Sum.elim` and order

### PR DESCRIPTION
**Pull request by madvorak**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Sum/LE.lean [hunk 1]
```diff
@@ -0,0 +1,61 @@
...
+      have hi₂ := hyp (Sum.inr i₂)
+      rwa [Sum.elim_inr, Sum.elim_inr] at hi₂
+  · intro j
+    cases j with
+    | inl j₁ =>
+      rw [Sum.elim_inl, Sum.elim_inl]
+      exact hyp.left j₁
+    | inr j₂ =>
+      rw [Sum.elim_inr, Sum.elim_inr]
+      exact hyp.right j₂
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Sum/LE.lean:35]:
```suggestion
    Sum.elim u₁ u₂ ≤ Sum.elim v₁ v₂ ↔ u₁ ≤ v₁ ∧ u₂ ≤ v₂ :=
  ⟨fun h => ⟨fun _ => h <| inl _, fun _ => h <| inr _⟩,
  fun h => fun j => match j with | inl _ => h.1 _ | inr _ => h.2 _⟩
```

File: Mathlib/Data/Sum/LE.lean [hunk 2]
```diff
@@ -0,0 +1,61 @@
...
+
+lemma const_le_elim_iff (b : β) (v₁ : α₁ → β) (v₂ : α₂ → β) :
+    (Function.const _ b) ≤ Sum.elim v₁ v₂ ↔ (Function.const _ b) ≤ v₁ ∧ (Function.const _ b) ≤ v₂ :=
+  by rw [← elim_const_const, elim_le_elim_iff]
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Sum/LE.lean:39]:
```suggestion
  elim_const_const _ ▸ elim_le_elim_iff _ _ _ _
```
I suggest term mode here (and below) because I feel like the `by` on the start of the line is kinda annoying.

File: Mathlib/Data/Sum/LE.lean [hunk 3]
```diff
@@ -0,0 +1,61 @@
...
+    0 ≤ Sum.elim v₁ v₂ ↔ 0 ≤ v₁ ∧ 0 ≤ v₂ :=
+  const_le_elim_iff 0 v₁ v₂
+
+lemma one_le_elim_iff [One β] (v₁ : α₁ → β) (v₂ : α₂ → β) :
+    1 ≤ Sum.elim v₁ v₂ ↔ 1 ≤ v₁ ∧ 1 ≤ v₂ :=
+  const_le_elim_iff 1 v₁ v₂
+
+lemma elim_le_const_iff (b : β) (u₁ : α₁ → β) (u₂ : α₂ → β) :
+    Sum.elim u₁ u₂ ≤ (Function.const _ b) ↔ u₁ ≤ (Function.const _ b) ∧ u₂ ≤ (Function.const _ b) :=
+  by rw [← elim_const_const, elim_le_elim_iff]
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Sum/LE.lean:51]:
```suggestion
  elim_const_const _ ▸ elim_le_elim_iff _ _ _ _
```

**Comment by madvorak** [comment]
Thanks @Rida-Hamadani for the golf!

File: Mathlib/Data/Sum/LE.lean [hunk 4]
```diff
@@ -0,0 +1,47 @@
+/-
+Copyright (c) 2024 Martin Dvorak. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Martin Dvorak
+-/
+import Mathlib.Order.Basic
+import Mathlib.Algebra.Group.Pi.Basic
+/-!
+# TODO
```
Comment (urkud) [inline Mathlib/Data/Sum/LE.lean:9]: Please write a module docstring. E.g., move the next sentence to this line, then write 1 more sentence explaining what kind of lemmas do you prove here.

File: Mathlib/Data/Sum/LE.lean [hunk 5]
```diff
@@ -0,0 +1,47 @@
...
+  fun h j => match j with | inl _ => h.1 _ | inr _ => h.2 _⟩
+
+lemma const_le_elim_iff (b : β) (v₁ : α₁ → β) (v₂ : α₂ → β) :
+    (Function.const _ b) ≤ Sum.elim v₁ v₂ ↔ (Function.const _ b) ≤ v₁ ∧ (Function.const _ b) ≤ v₂ :=
+  elim_const_const _ ▸ elim_le_elim_iff _ _ _ _
+
+lemma zero_le_elim_iff [Zero β] (v₁ : α₁ → β) (v₂ : α₂ → β) :
+    0 ≤ Sum.elim v₁ v₂ ↔ 0 ≤ v₁ ∧ 0 ≤ v₂ :=
+  const_le_elim_iff 0 v₁ v₂
+
```
Comment (urkud) [inline Mathlib/Data/Sum/LE.lean:30]:
```suggestion
@[to_additive]
```

File: Mathlib/Data/Sum/LE.lean [hunk 6]
```diff
@@ -0,0 +1,47 @@
...
+  const_le_elim_iff 1 v₁ v₂
+
+lemma elim_le_const_iff (b : β) (u₁ : α₁ → β) (u₂ : α₂ → β) :
+    Sum.elim u₁ u₂ ≤ (Function.const _ b) ↔ u₁ ≤ (Function.const _ b) ∧ u₂ ≤ (Function.const _ b) :=
+  elim_const_const _ ▸ elim_le_elim_iff _ _ _ _
+
+lemma elim_le_zero_iff [Zero β] (u₁ : α₁ → β) (u₂ : α₂ → β) :
+    Sum.elim u₁ u₂ ≤ 0 ↔ u₁ ≤ 0 ∧ u₂ ≤ 0 :=
+  elim_le_const_iff 0 u₁ u₂
+
```
Comment (urkud) [inline Mathlib/Data/Sum/LE.lean:42]:
```suggestion
@[to_additive]
```

File: Mathlib/Data/Sum/LE.lean [hunk 7]
```diff
@@ -0,0 +1,47 @@
...
+# TODO
+
+Interaction between `Sum.elim` and `≤`
+-/
+
+namespace Sum
+
+variable {α₁ α₂ β : Type*} [LE β]
+
+lemma elim_le_elim_iff (u₁ v₁ : α₁ → β) (u₂ v₂ : α₂ → β) :
```
Comment (urkud) [inline Mathlib/Data/Sum/LE.lean:18]: Looks like a good `simp` lemma to me, same for `one_le_elim` etc.
```suggestion
@[simp]
lemma elim_le_elim_iff (u₁ v₁ : α₁ → β) (u₂ v₂ : α₂ → β) :
```

File: Mathlib/Data/Sum/LE.lean [hunk 8]
```diff
@@ -0,0 +1,47 @@
...
+    Sum.elim u₁ u₂ ≤ Sum.elim v₁ v₂ ↔ u₁ ≤ v₁ ∧ u₂ ≤ v₂ :=
+  ⟨fun h => ⟨fun _ => h <| inl _, fun _ => h <| inr _⟩,
+  fun h j => match j with | inl _ => h.1 _ | inr _ => h.2 _⟩
```
Comment (urkud) [inline Mathlib/Data/Sum/LE.lean:21]:
```suggestion
  Sum.forall
```

File: Mathlib/Data/Sum/LE.lean [hunk 9]
```diff
@@ -0,0 +1,41 @@
+/-
+Copyright (c) 2024 Martin Dvorak. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Martin Dvorak
+-/
+import Mathlib.Order.Basic
+import Mathlib.Algebra.Group.Pi.Basic
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Sum/LE.lean:7]:
```suggestion
import Mathlib.Algebra.Group.Pi.Basic

```

**Review by Rida-Hamadani — APPROVED** [review]

File: Mathlib.lean [hunk 10]
```diff
@@ -2252,6 +2252,7 @@ import Mathlib.Data.String.Lemmas
 import Mathlib.Data.Subtype
 import Mathlib.Data.Sum.Basic
 import Mathlib.Data.Sum.Interval
+import Mathlib.Data.Sum.LE
```
Comment (Ruben-VandeVelde) [inline Mathlib.lean:2255]: Maybe `Mathlib.Data.Sum.Order`? Or should this go under `Mathlib.Order` directly? CC @YaelDillies

Comment (madvorak) [reply Mathlib.lean:2255]: I think it belongs to the `Data` folder, but I don't have any opinion about naming this particular file.

Comment (YaelDillies) [reply Mathlib.lean:2255]: Yeah for now this should all go `Data.Sum.Order`, and later it will be moved to `Order.Sum` or something.

File: Mathlib/Data/Sum/LE.lean [hunk 11]
```diff
@@ -0,0 +1,42 @@
...
+  const_le_elim_iff 1 v₁ v₂
+
+lemma elim_le_const_iff (b : β) (u₁ : α₁ → β) (u₂ : α₂ → β) :
+    Sum.elim u₁ u₂ ≤ (Function.const _ b) ↔ u₁ ≤ (Function.const _ b) ∧ u₂ ≤ (Function.const _ b) :=
+  elim_const_const b ▸ elim_le_elim_iff ..
+
+@[to_additive]
+lemma elim_le_one_iff [One β] (u₁ : α₁ → β) (u₂ : α₂ → β) :
+    Sum.elim u₁ u₂ ≤ 1 ↔ u₁ ≤ 1 ∧ u₂ ≤ 1 :=
+  elim_le_const_iff 1 u₁ u₂
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/LE.lean:40]: Same here

File: Mathlib.lean (hunk 10 above)
Comment (madvorak) [reply Mathlib.lean:2255]: Are you sure about the former file? Its docstring says:
```
# Orders on a sum type

This file defines the disjoint sum and the linear (aka lexicographic) sum of two orders and
provides relation instances for `Sum.LiftRel` and `Sum.Lex`.
```

Comment (YaelDillies) [reply Mathlib.lean:2255]: I mean genuinely your lemmas are so basic that they could go in `Order.Basic`

File: Mathlib/Data/Sum/LE.lean [hunk 12]
```diff
@@ -0,0 +1,42 @@
...
+    (Function.const _ b) ≤ Sum.elim v₁ v₂ ↔ (Function.const _ b) ≤ v₁ ∧ (Function.const _ b) ≤ v₂ :=
+  elim_const_const b ▸ elim_le_elim_iff ..
+
+@[to_additive]
+lemma one_le_elim_iff [One β] (v₁ : α₁ → β) (v₂ : α₂ → β) :
+    1 ≤ Sum.elim v₁ v₂ ↔ 1 ≤ v₁ ∧ 1 ≤ v₂ :=
+  const_le_elim_iff 1 v₁ v₂
+
+lemma elim_le_const_iff (b : β) (u₁ : α₁ → β) (u₂ : α₂ → β) :
+    Sum.elim u₁ u₂ ≤ (Function.const _ b) ↔ u₁ ≤ (Function.const _ b) ∧ u₂ ≤ (Function.const _ b) :=
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/LE.lean:34]:
```suggestion
    Sum.elim u₁ u₂ ≤ Function.const _ b ↔ u₁ ≤ Function.const _ b ∧ u₂ ≤ Function.const _ b :=
```
maybe `open Function` as well?

File: Mathlib.lean (hunk 10 above)
Comment (madvorak) [reply Mathlib.lean:2255]: I thought `Data` was more basic than folders dedicated to respective topics. Was I wrong?

Comment (madvorak) [reply Mathlib.lean:2255]: Also, do we want LT versions? I noticed the lemmas in the mentioned file had both LE and LT versions.

Comment (madvorak) [reply Mathlib.lean:2255]: I just tried `Order.Basic` but in this file the instance that would synthesize `LE (β → α)` from `[LE α]` is missing.

Comment (madvorak) [reply Mathlib.lean]: Alright, since the previous suggestion didn't work without increasing imports in the basic file, I moved it all to `Algebra.Order.Sum`.

File: Mathlib/Algebra/Order/Sum.lean [hunk 13]
```diff
@@ -0,0 +1,42 @@
...
+
+variable {α₁ α₂ β : Type*} [LE β]
+
+@[simp]
+lemma elim_le_elim_iff (u₁ v₁ : α₁ → β) (u₂ v₂ : α₂ → β) :
+    Sum.elim u₁ u₂ ≤ Sum.elim v₁ v₂ ↔ u₁ ≤ v₁ ∧ u₂ ≤ v₂ :=
+  Sum.forall
+
+lemma const_le_elim_iff (b : β) (v₁ : α₁ → β) (v₂ : α₂ → β) :
+    (Function.const _ b) ≤ Sum.elim v₁ v₂ ↔ (Function.const _ b) ≤ v₁ ∧ (Function.const _ b) ≤ v₂ :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Sum.lean:25]:
```suggestion
    Function.const _ b ≤ Sum.elim v₁ v₂ ↔ Function.const _ b ≤ v₁ ∧ Function.const _ b ≤ v₂ :=
```

File: Mathlib/Algebra/Order/Sum.lean [hunk 14]
```diff
@@ -0,0 +1,42 @@
...
+-/
+
+namespace Sum
+
+variable {α₁ α₂ β : Type*} [LE β]
+
+@[simp]
+lemma elim_le_elim_iff (u₁ v₁ : α₁ → β) (u₂ v₂ : α₂ → β) :
+    Sum.elim u₁ u₂ ≤ Sum.elim v₁ v₂ ↔ u₁ ≤ v₁ ∧ u₂ ≤ v₂ :=
+  Sum.forall
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Sum.lean:22]: This has nothing to do with algebra, hence shouldn't be under` Algebra`. Please move it to `Order.Basic`

Comment (madvorak) [reply Mathlib/Algebra/Order/Sum.lean:22]: Did you see my comment above? The file with current imports does not know ordering on vectors.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Sum.lean:22]: `Pi.le_def` is in `Order.Basic` so I don't believe you.

Comment (madvorak) [reply Mathlib/Algebra/Order/Sum.lean:22]: Oh, my bad! I was putting it too high in the file. Sorry for the misinformation.

File: Mathlib/Algebra/Order/Sum.lean [hunk 15]
```diff
@@ -0,0 +1,29 @@
...
+
+This file provides basic API for part-wise comparison of `Sum.elim` vectors against `0` or `1`.
+-/
+
+namespace Sum
+
+variable {α₁ α₂ β : Type*} [LE β] [One β]
+
+@[to_additive]
+lemma one_le_elim_iff (v₁ : α₁ → β) (v₂ : α₂ → β) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Sum.lean:20]: Since it's an iff,
```suggestion
lemma one_le_elim_iff {v₁ : α₁ → β} {v₂ : α₂ → β} :
```
and below

File: Mathlib/Order/Basic.lean [hunk 16]
```diff
@@ -912,6 +913,25 @@ instance Pi.partialOrder [∀ i, PartialOrder (π i)] : PartialOrder (∀ i, π
...
+    Sum.elim u₁ u₂ ≤ Sum.elim v₁ v₂ ↔ u₁ ≤ v₁ ∧ u₂ ≤ v₂ :=
+  Sum.forall
+
+lemma const_le_elim_iff (b : β) (v₁ : α₁ → β) (v₂ : α₂ → β) :
+    Function.const _ b ≤ Sum.elim v₁ v₂ ↔ Function.const _ b ≤ v₁ ∧ Function.const _ b ≤ v₂ :=
+  elim_const_const b ▸ elim_le_elim_iff ..
+
+lemma elim_le_const_iff (b : β) (u₁ : α₁ → β) (u₂ : α₂ → β) :
+    Sum.elim u₁ u₂ ≤ Function.const _ b ↔ u₁ ≤ Function.const _ b ∧ u₂ ≤ Function.const _ b :=
+  elim_const_const b ▸ elim_le_elim_iff ..
```
Comment (YaelDillies) [inline Mathlib/Order/Basic.lean:931]: Similarly, all of these arguments should be implicit.

**Comment by madvorak** [comment]
BTW note that I keep `Sum.elim` in the theorem statements as opposed to just `elim` despite the open namespace, because reading just `elim u v` is a big wtf.

File: Mathlib/Order/Basic.lean [hunk 17]
```diff
@@ -54,6 +54,7 @@ provide many aliases to dot notation-less lemmas. For example, `le_trans` is ali
 
 - expand module docs
 - automatic construction of dual definitions / theorems
+- remove duplicate declaration of type arguments from respective declarations
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Order/Basic.lean:57]: Sure

**Comment by YaelDillies** [comment]
maintainer merge

File: Mathlib/Order/Basic.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (madvorak) [reply Mathlib/Order/Basic.lean:57]: Just a side effect of me searching for "what type variable do we have here".

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
